US04243681
Reaction of the epichlorohydrin derivative of 4-(isopropylthio)phenol (9.0 g., 0.04 mole) with cyclohexylbutylamine (6.7 g., 0.043 mole) according to procedure of Example 2(b) and crystallization of the crude product from ethanol affords an 11.4% yield of analytically pure 1-[(4-cyclohexylbutyl)amino]-3-[4-[(1-methylethyl)thio]phenoxy]-2-propanol hydrochloride, m.p. 179° with prior softening from 118°.

reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
reactant | 4-(isopropylthio)phenol | 0.04 mole, 9.0 g | C(C)(C)SC1=CC=C(C=C1)O | C9H12OS
reactant | cyclohexylbutylamine | 0.043 mole, 6.7 g | C1(CCCCC1)CCCCN | C10H21N
product | 1-[(4-cyclohexylbutyl)amino]-3-[4-[(1-methylethyl)thio]phenoxy]-2-propanol hydrochloride | 11.4% yield | Cl.C1(CCCCC1)CCCCNCC(COC1=CC=C(C=C1)SC(C)C)O | InChI=1S/C22H37NO2S.ClH/c1-18(2)26-22-13-11-21(12-14-22)25-17-20(24)16-23-15-7-6-10-19-8-4-3-5-9-19;/h11-14,18-20,23-24H,3-10,15-17H2,1-2H3;1H
